US07601716B2
{4-[5-(3,5-Dichlorophenoxy)-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]phenyl}-(4-methylpiperazin-1-yl)methanone
[4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methylpiperazin-1-yl)methanone (20 mg) was reacted with 3,5-dichlorophenol (27.7 mg) as in General Procedure 12. Silica gel chromatography using a gradient of 0-15% methanol/CH2Cl2 as the eluting solvent gave the title compound as a yellow foam (82% yield). LCMS: m/z=497.12 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.02-2.13 (m, 1H), 2.24-2.35 (m, 1H), 2.33 (s, 3H), 2.35-2.60 (m, 4H), 3.40-3.66 (m, 4H), 3.70-3.92 (m, 2H), 5.30 (bs, 1H), 5.37 (t, J=3.3 Hz, 1H), 6.93 (d, J=1.6 Hz, 2H), 7.02 (dd, J=1.6 and 1.6 Hz, 1H), 7.44-7.51 (m, 4H), 7.60 (d, J=2.1 Hz, 1H), 8.31 (d, J=2.1 Hz, 1H).

reactant | [4-(5-Hydroxy-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl)phenyl]-(4-methylpiperazin-1-yl)methanone | 20 mg | OC1C=2C=C(C=NC2NCC1)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C20H24N4O2
reactant | 3,5-dichlorophenol | 27.7 mg | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | {4-[5-(3,5-Dichlorophenoxy)-5,6,7,8-tetrahydro-[1,8]naphthyridin-3-yl]phenyl}-(4-methylpiperazin-1-yl)methanone | 82% yield | ClC=1C=C(OC2C=3C=C(C=NC3NCC2)C2=CC=C(C=C2)C(=O)N2CCN(CC2)C)C=C(C1)Cl | C26H26Cl2N4O2
